US07741327B2
To a solution of 3-ethoxy-2,6-difluoro-phenylboronic acid (5.0 g, 0.025 mol) in tetrahydrofuran (80 mL) was added glacial acetic acid (30 mL). The resulting mixture was cooled to 0° C. before hydrogen peroxide (50% aqueous solution, 4 mL) was added. The resulting mixture was allowed to come to room temperature and stirred for 65 h. The mixture was evaporated and the residue was dissolved in ethyl acetate, washed with hydrochloric acid (0.5N), water and brine. The organic phase was dried, filtered and evaporated which afforded 3-ethoxy-2,6-difluoro-phenol (4.25 g, 99%) as a brown oil.

reactant | 3-ethoxy-2,6-difluoro-phenylboronic acid | 0.025 mol, 5.0 g | C(C)OC=1C(=C(C(=CC1)F)B(O)O)F | C8H9BF2O3
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 4 mL | OO | H2O2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 3-ethoxy-2,6-difluoro-phenol | 4.25 g, 99% | C(C)OC=1C(=C(C(=CC1)F)O)F | C8H8F2O2
